US08026370B2
4-chloro-2-fluorophenylboric acid
Under nitrogen atmosphere, n-butyllithium (1.6 mol/L-n-hexane, 18.8 mL) was added dropwise at −78° C. to a solution of n-hexane (11 mL) and tetrahydrofuran (30 mL). Then, a solution of 1-bromo-4-chloro-2-fluorobenzene (5.24 g) in n-hexane (15 mL) and tetrahydrofuran (15 mL) was added dropwise. The mixture was stirred at −78° C. for one hour, boric acid trimethyl ester (4.0 mL) in tetrahydrofuran (15 mL) was added dropwise. The mixture was raised to room temperature. After 2 hr, aqueous hydrochloric acid solution (3 mol/L, 120 mL) was added, and the mixture was extracted with diethyl ether (100 mL). The aqueous layer was extracted again with diethyl ether (100 mL), and the combined organic layers were dried over magnesium sulfate. The solvent was evaporated under reduced pressure, n-hexane was added to the residue, and the precipitated solid was collected by filtration to give the title compound (2.0 g) as a white solid.

reactant | n-butyllithium | 1.6 mol/L, 18.8 mL | C(CCC)[Li]
reactant | 1-bromo-4-chloro-2-fluorobenzene | 5.24 g | BrC1=C(C=C(C=C1)Cl)F | C6H3BrClF
reactant | boric acid trimethyl ester | 4.0 mL | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 3 mol/L, 120 mL | Cl | ClH
solvent | n-hexane | 15 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | n-hexane | 11 mL | CCCCCC | C6H14
product | 4-chloro-2-fluorophenylboric acid | 2.0 g | ClC1=CC(=C(C=C1)OB(O)O)F | C6H5BClFO3
